US08008298B2
A solution of 4-{4-[7-(1-methyl-cyclohexanecarbonyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester (35 mg, 0.069 mmol) in DCM (5 ml), at 0° C., was treated with TFA (0.15 ml, 2.01 mmol). The reaction mixture was stirred at room temperature for 16 hours, and then refluxed for 1.5 hours. The reaction mixture was concentrated to dryness, and the resulting residue was partitioned between sat. NaHCO3 and EtOAc. The organic layers were collected, dried over MgSO4, filtered, and concentrated providing 25 mg (89%) of (1-methyl-cyclohexyl)-[2-(4-piperazin-1-yl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone as a yellow solid. MP 214-216° C., M+H=404.

reactant | 4-{4-[7-(1-methyl-cyclohexanecarbonyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | 0.069 mmol, 35 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C=1N=C2C(=NC1)NC=C2C(=O)C2(CCCCC2)C | C29H37N5O3
reactant | TFA | 2.01 mmol, 0.15 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | (1-methyl-cyclohexyl)-[2-(4-piperazin-1-yl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone | 25 mg, 89% | CC1(CCCCC1)C(=O)C1=CNC2=NC=C(N=C21)C2=CC=C(C=C2)N2CCNCC2 | C24H29N5O
